US06646009B2
(E)-4-methoxystyryl-N-methyl-N-phenyl sulfonamide
A solution of (E)-4-methoxystyrylsulfonyl chloride (10 mmol) and N-methyl aniline (10 mmol) was subjected to General Procedure 1, part B. The title compound, melting point 126-129° C., was obtained 80.9% yield.

reactant | (E)-4-methoxystyrylsulfonyl chloride | 10 mmol | COC1=CC=C(/C=C/S(=O)(=O)Cl)C=C1 | C9H9ClO3S
reactant | N-methyl aniline | 10 mmol | CNC1=CC=CC=C1 | C7H9N
product | (E)-4-methoxystyryl-N-methyl-N-phenyl sulfonamide | 80.9% yield | COC1=CC=C(/C=C/S(=O)(=O)N(C2=CC=CC=C2)C)C=C1 | C16H17NO3S
